US04060630
When in the procedure of Example 2 0.10 mole of phenylacetaldehyde is substituted for 3-phenylpropionaldehyde, and 0.10 mole of 1-chloro-3-iodopropane is substituted for 1-chloro-2-iodoethane, 5-chloro-1-phenylpentan-2-one is obtained.

reactant | phenylacetaldehyde | 0.10 mole | C1(=CC=CC=C1)CC=O | C8H8O
reactant | 3-phenylpropionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | 1-chloro-3-iodopropane | 0.10 mole | ClCCCI | C3H6ClI
reactant | 1-chloro-2-iodoethane | ClCCI | C2H4ClI
product | 5-chloro-1-phenylpentan-2-one | ClCCCC(CC1=CC=CC=C1)=O | C11H13ClO
